US08492582B2
To a solution mixture of the obtained tert-butyl 2-(2-(benzyloxy)-4-(1H-imidazol-1-yl)benzamido)-4-phenylbenzoate (0.12 g) in ethyl acetate (3.6 mL), methanol (1.8 mL), and dioxane (1.8 mL), 10% palladium-carbon (61 mg) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours. To the reaction mixture, 10% palladium-carbon (30 mg) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours. Chloroform was added to the reaction mixture, and the insoluble substance was removed by filtration. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography [Fuji Silysia Chemical Ltd., PSQ100B (spherical), eluent: chloroform] to obtain 0.084 g of tert-butyl 2-(2-hydroxy-4-(1H-imidazol-1-yl)benzamido)-4-phenylbenzoate as a white solid.

reactant | tert-butyl 2-(2-(benzyloxy)-4-(1H-imidazol-1-yl)benzamido)-4-phenylbenzoate | 0.12 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)N1C=NC=C1 | C34H31N3O4
reactant | dioxane | 1.8 mL | O1CCOCC1 | C4H8O2
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 3.6 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1.8 mL | CO | CH4O
catalyst | palladium-carbon | 61 mg | [C].[Pd]
catalyst | palladium-carbon | 30 mg | [C].[Pd]
product | tert-butyl 2-(2-hydroxy-4-(1H-imidazol-1-yl)benzamido)-4-phenylbenzoate | 0.084 g | OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)N1C=NC=C1 | C27H25N3O4
